US05527813
3-(3-Butoxy-1,2,5-thiadiazol-4-yl)-1-azabicyclo[3.3.1]non-3-ene oxalate
To a solution of 4-chloro-3-(3-butoxy-1,2,5-thiadiazol-4-yl)-1-azabicyclo-[3.3.1]non-3-ene (0.63 g, 2.0 mmol) in abs. ethanol (20 ml), triethyl amine (3 ml) and formic acid (1 ml) were added. The reaction mixture was heated to 80° C. under nitrogen. At this temperature palladium on carbon (0.5 g, 5%) was added in one portion. After 15 min. another portion of palladium on carbon (0.25 g, 5%) was added. The last addition of palladium on carbon was repeated twice. After cooling, the reaction mixture was filtered and evaporated. The residue was dissolved in water basified with potassium carbonate and extracted with ether (3×75 ml). The ether extracts were dried and evaporated. The crude compound was purified by column chromatography (eluent: CH2Cl2 /MeOH (9:1)), yielding 80 mg of free base. The title compound was crystallized with oxalic acid from acetone/ether in 80 mg yield. (Compound 95). M.p. 150°-151 ° C.

reactant | 4-chloro-3-(3-butoxy-1,2,5-thiadiazol-4-yl)-1-azabicyclo-[3.3.1]non-3-ene | 2.0 mmol, 0.63 g | ClC1=C(CN2CCCC1C2)C=2C(=NSN2)OCCCC | C14H20ClN3OS
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | triethyl amine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 1 ml | C(=O)O | CH2O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
product | 3-(3-Butoxy-1,2,5-thiadiazol-4-yl)-1-azabicyclo[3.3.1]non-3-ene oxalate | 80 mg | C(C(=O)O)(=O)O.C(CCC)OC1=NSN=C1C=1CN2CCCC(C1)C2 | InChI=1S/C14H21N3OS.C2H2O4/c1-2-3-7-18-14-13(15-19-16-14)12-8-11-5-4-6-17(9-11)10-12;3-1(4)2(5)6/h8,11H,2-7,9-10H2,1H3;(H,3,4)(H,5,6)
